Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid
 
Attending: ___
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ADMISSION NOTE  
Admitted:  ___
=============================================================  
PCP:  Dr. ___ ONCOLOGIST: Dr. ___ DIAGNOSIS: stage IIc ovarian cancer status post total
abdominal hysterectomy, bilateral salpingo-oopherectomy, pelvic
and ___ lymph node dissection, and omentectomy in 
___,
now recurrent and metastatic 
 
TREATMENT REGIMEN: Carboplatin
 
CC:  fatigue

HISTORY OF PRESENTING ILLNESS:  
___ year old F with recurrent metastatic high grade ovarian CA on
q4week carboplatin who presents with  a day of fatigue and
weakness. She got in touch with the on call hematologist who
recommended that she be evaluated given concern for possible
symptomatic anemia. Pt denies fevers, chills, or other 
localizing
symptoms. Though she does report diffuse body pain as well, says
it feels achy. No joint swelling, no rashes. No sick contacts.
She reports feeling similarly in the past and improved with
hydration and pain control. 

In the ED, initial VS were:  T98.6, HR 81, BP 117/86, RR 18,
100%RA; CBC showed stable  Hgb at 9.6 from 10.0 two days prior.
No leukocytosis, urinalysis was negative, and CXR was clear.
While her port was being accessed, she had acute onset pleuritic
pain and some tachycardia. CTA chest was obtained which was
unremarkable. She was admitted for pain control. 

REVIEW OF SYSTEMS:  Negative in 10 points except as stated 
above.
 
Past Medical History:
___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ possible surgical resection
- ___ C1D1 Carboplatin
- ___: C2D1 Carboplatin

PAST MEDICAL HISTORY: 
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FAMILY HISTORY (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
On Admission
VS: 98.1 115/75 92 18 99 RA  
GENERAL: NAD  
HEENT: NCAT
CARDIAC:  RRR, no r/m/g
LUNG: clear b/l
ABD: soft, nontender, nondistended
EXT: no joint swelling
PULSES: intact
NEURO: ___ strength in upper and lower exteremities b/l;
tenderness in shoulders, forearms, thighs
SKIN: port site clean, no rash

On Discharge:
VS: 98.3 PO 103 / 64 L Lying 94 18 98 RA   
GEN: Well appearing in NAD
HEENT/Neck: anicteric sclera, MMM, OP clear, neck supple
HEART: RRR no m/r/g
LUNGS: CTAB no wheezes, rales, or crackles.  Symmetric expansion
ABD: soft mild nonspecific TTP no rebound or guarding
EXT: warm well perfused, no pitting edema
NEURO: alert and oriented.  Fluent speech.  CN II-XII intact.  
No
focal deficits on strength testing
 
Pertinent Results:
___ 02:15PM BLOOD WBC-4.1 RBC-3.32* Hgb-9.6* Hct-29.4* 
MCV-89 MCH-28.9 MCHC-32.7 RDW-18.3* RDWSD-57.2* Plt Ct-73*
___ 02:15PM BLOOD ___ PTT-34.3 ___
___ 02:15PM BLOOD Glucose-99 UreaN-16 Creat-0.8 Na-138 
K-3.6 Cl-100 HCO3-28 AnGap-14
___ 02:15PM BLOOD ALT-18 AST-17 CK(CPK)-45 AlkPhos-119* 
TotBili-0.2
___ 02:15PM BLOOD Albumin-4.0 Calcium-9.0 Phos-4.3 Mg-1.8
___ 02:15PM BLOOD TSH-1.5

CTA CHEST:
FINDINGS: 
 
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the
subsegmental level without filling defect to indicate a 
pulmonary embolus. The
thoracic aorta is normal in caliber without evidence of 
dissection or
intramural hematoma.  The heart, pericardium, and great vessels 
are within
normal limits. No pericardial effusion is seen.  Right chest 
wall Port-A-Cath
is seen with catheter tip in the right atrium.
 
AXILLA, HILA, AND MEDIASTINUM:  No axillary or mediastinal 
lymphadenopathy is
present.  Right hilar nodal tissue is stable since the prior 
examination.  No
mediastinal mass.
 
PLEURAL SPACES: No pleural effusion or pneumothorax.
 
 
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal
opacification.  There is bibasilar atelectasis.  The airways are 
patent to the
level of the segmental bronchi bilaterally.
 
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.
 
ABDOMEN:  Included portion of the upper abdomen is unremarkable.
 
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture.
 
 
IMPRESSION: 
 
No evidence of pulmonary embolism or aortic abnormality.
 
Brief Hospital Course:
Ms. ___ is a ___ year old F with recurrent metastatic 
ovarian CA on q4week carboplatin who was admitted with fatigue 
and generalized pain. No localizing infectious signs or 
symptoms. No sick contacts. Basic infectious workup negative in 
ED. H/H stable. Her last chemo was nearly 4 weeks ago, so less 
likely med related.

Weakness/malaise/fatigue:
Chronic cancer pain:
Likely related to cancer and effects of treatment from her 
cancer as explained above. There was no evidence of acute 
infection or new acute medical conditions.  CK wnl. TSH wnl. She 
was treated with supportive care and eventually improved. 
Interval of morphine administration decreased to every 4 hours 
as needed. She has this medication at home, but was discharged 
with an additional 20 pills given decreased recommended time 
interval.

# Metastatic Ovarian CA
- Due for next round of q4w Carboplatin on ___.  
Hospitalization communicated with primary oncologist and NP and 
will see patient in follow up

# H/o constipation: Patient without a bowel movement for several 
days during her hospitalization. She was continued on Colace and 
miralax (home meds). She was additionally given senna, mag 
citrate and lactulose. Ultimately on ___ she was given a 
bisacodyl suppository and had a bowel movement prior to 
discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 20 mg PO QHS insomnia 
2. ARIPiprazole 4 mg PO QHS 
3. DULoxetine 120 mg PO DAILY 
4. Fentanyl Patch 25 mcg/h TD Q72H 
5. Gabapentin 600 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. LORazepam 0.5-1 mg PO QHS:PRN anxiety 
8. Morphine Sulfate ___ 7.5-15 mg PO Q8H:PRN pain 
9. Omeprazole 40 mg PO DAILY 
10. Prochlorperazine 10 mg PO Q8H:PRN 2 days post chemo 
11. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
12. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
daily Refills:*0 
3.  Senna 8.6 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice daily Disp 
#*60 Tablet Refills:*0 
4.  Morphine Sulfate ___ 7.5-15 mg PO Q4H:PRN pain 
RX *morphine 15 mg ___ tablet(s) by mouth every 4 hours Disp 
#*20 Tablet Refills:*0 
5.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
6.  Amitriptyline 20 mg PO QHS insomnia  
7.  ARIPiprazole 4 mg PO QHS  
8.  Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  DULoxetine 120 mg PO DAILY  
11.  Fentanyl Patch 25 mcg/h TD Q72H  
12.  Gabapentin 600 mg PO QHS  
13.  Levothyroxine Sodium 50 mcg PO DAILY  
14.  Loratadine 10 mg PO DAILY  
15.  LORazepam 0.5-1 mg PO QHS:PRN anxiety  
16.  Omeprazole 40 mg PO DAILY  
17.  Prochlorperazine 10 mg PO Q8H:PRN 2 days post chemo  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ovarian cancer
Fatigue
Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for recurrent fatigue and pain likely related 
to your cancer.  There was no evidence for infection.  Please 
continue your home medications and stay hydrated.  Please follow 
up with your oncologists for ongoing care.

It was a pleasure to be a part of your care,
Your ___ treatment team
 
Followup Instructions:
___